US08138173B2
A stirring solution of 2-tert-butyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one (10.0 g, 41.4 mmol) in tetrahydrofuran (400 mL) and N,N,N′,N′ tetramethylethylenediamine (28 mL) was placed under an atmosphere of nitrogen and cooled to 0° C. n-Butyllithium (2.5M solution in hexanes, 49.7 mL, 124 mmol) was added dropwise over 30 minutes via an addition funnel. The resulting suspension was stirred at 0° C. for 15 minutes at which point paraformaldehyde (10.0 g, 333 mmol) was added in portions over 2 minutes. The suspension was allowed to warm to ambient temperature and stir for 2 hours. Additional paraformaldehyde (5.0 g, 167 mmol) was added and the resulting suspension stirred for 1.5 hours. Saturated aqueous ammonium chloride (150 mL) was added carefully and the mixture transferred to a separatory funnel. The aqueous layer was extracted with dichloromethane (3×150 mL). The combined organic layers were concentrated to a brown solid which was triturated with acetonitrile (100 mL). The solid was isolated by filtration and the filter cake was washed with additional acetonitrile (100 mL). The cake was dried in a vacuum oven at 65° C. overnight to yield 5.0 g of 2-tert-butyl-1-(hydroxymethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a tan solid. 500 mg of this material was crystallized from hot acetonitrile (100 mL) and isolated by filtration to yield 288 mg of 2-tert-butyl-1-(hydroxymethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a tan solid, mp 295-297° C. Anal. calcd for C15H17N3O2: C, 66.40; H, 6.32; N, 15.49. Found: C, 66.26; H, 6.64; N, 15.54.

reactant | 2-tert-butyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 41.4 mmol, 10.0 g | C(C)(C)(C)N1N=C2C(NC=3C=CC=CC3C2=C1)=O | C14H15N3O
reactant | n-Butyllithium | 124 mmol, 2.5M, 49.7 mL | C(CCC)[Li]
reactant | paraformaldehyde | 333 mmol, 10.0 g | C=O | CH2O
reactant | paraformaldehyde | 167 mmol, 5.0 g | C=O | CH2O
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | N,N,N′,N′ tetramethylethylenediamine | 28 mL | CN(CCN(C)C)C | C6H16N2
product | 2-tert-butyl-1-(hydroxymethyl)-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 5.0 g | C(C)(C)(C)N1N=C2C(NC=3C=CC=CC3C2=C1CO)=O | C15H17N3O2
